US08748462B2
Methyl 2-(benzyloxy)-5-bromoisonicotinate (H6.1)
To 2 mL of methyl 5-bromo-2-oxo-1,2-dihydropyridine-4-carboxylate (232 mg, 1.00 mmol)(commercially available from Combi-Blocks) was added benzyl bromide (205 mg, 1.20 mmol) and silver carbonate (413 mg, 1.50 mmol) (commercially available from Sigma-Aldrich, St. Louis, Mo., USA). The resulting mixture was stirred at 50° C. overnight. After reaction completion, the mixture was loaded onto a solid silica gel cartridge and purified by chromatography with 10% EtOAc/hexane to afford the desired product H6.1 (293 mg, 91%). MS ESI (pos.) m/e: 322.1 (M+H)+.

reactant | methyl 5-bromo-2-oxo-1,2-dihydropyridine-4-carboxylate | 1.00 mmol, 2 mL, 232 mg | BrC=1C(=CC(NC1)=O)C(=O)OC | C7H6BrNO3
reactant | benzyl bromide | 1.20 mmol, 205 mg | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | silver carbonate | 1.50 mmol, 413 mg | C([O-])([O-])=O.[Ag+2]
product | Methyl 2-(benzyloxy)-5-bromoisonicotinate | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C(=CN1)Br | C14H12BrNO3
